US08071581B2
Intermediate 37: [5,7-Difluoro-3-(1-methyl-1H-pyrazol-4-yl)-quinolin-6-yl]-acetic acid hydrazide
To a 40 ml vial was added methanol (12 mL), [5,7-difluoro-3-(1-methyl-1H-pyrazol-4-yl)-quinolin-6-yl]-acetic acid methyl ester (508 mg, 1.6 mmol) and hydrazine anhydrous (4 eq., 6.4 mmols). After 1 hour at 55° C. a second portion of hydrazine (4 eq., 6.4 mmol) was added and the reaction heated at 55° C. for a further 1 hour. The reaction mixture was cool down to room temperature, filtered and washed with cold methanol. The product was dried to return the title compound as a white solid (425 mg, 83% yield). MS: m/z 318.0 (M+H+).

reactant | [5,7-difluoro-3-(1-methyl-1H-pyrazol-4-yl)-quinolin-6-yl]-acetic acid methyl ester | 1.6 mmol, 508 mg | COC(CC=1C(=C2C=C(C=NC2=CC1F)C=1C=NN(C1)C)F)=O | C16H13F2N3O2
reactant | hydrazine | 6.4 mmols, 4 eq. | NN | H4N2
reactant | hydrazine | 6.4 mmol, 4 eq. | NN | H4N2
solvent | methanol | 12 mL | CO | CH4O
product | [5,7-Difluoro-3-(1-methyl-1H-pyrazol-4-yl)-quinolin-6-yl]-acetic acid hydrazide | 425 mg, 83% yield | FC1=C2C=C(C=NC2=CC(=C1CC(=O)NN)F)C=1C=NN(C1)C | C15H13F2N5O
